US05604242
A mixture of N-(2-methyl-1-propyl)-N-phenylamine (14.9 g, 100 mmol), chloroacetic anhydride (19.0 g, 111 mmol) and water (100 ml) was heated at 70° C. for 1 h. The reaction mixture was poured into iced water (300 ml) and pH in the aqueous phase was adjusted to 2 with concentrated hydrochloric acid. The precipitated compound was collected and dried in vacuo to give 11.3 g of 2-chloro-N-(2-methyl-1-propyl)-N-phenylacetamide.

reactant | N-(2-methyl-1-propyl)-N-phenylamine | 100 mmol, 14.9 g | CC(CNC1=CC=CC=C1)C | C10H15N
reactant | chloroacetic anhydride | 111 mmol, 19.0 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-chloro-N-(2-methyl-1-propyl)-N-phenylacetamide | 11.3 g | ClCC(=O)N(C1=CC=CC=C1)CC(C)C | C12H16ClNO
